US03946011
To a solution of 0.20 mole of 4-amino-3',4'-dicarboxybenzophenone and 0.10 mole of 2-diphenylamino-4,6-dichloro-s-triazine in 300 ml of NMP is added 0.60 mole of potassium carbonate. The reaction mixture is heated at 100°C for 24 hours and then treated essentially as in Example 1 to give 2-diphenylamino-4,6-bis-{4'-(3",4"-dicarboxybenzoyl)-anilino}-s-triazine. The tetraacid is heated in refluxing nitrobenzene essentially as in Example 1 to yield the corresponding dianhydride.

reactant | 4-amino-3',4'-dicarboxybenzophenone | 0.20 mole | NC1=CC=C(C(=O)C2=CC(=C(C=C2)C(=O)O)C(=O)O)C=C1 | C15H11NO5
reactant | 2-diphenylamino-4,6-dichloro-s-triazine | 0.10 mole | C1(=CC=CC=C1)N(C1=NC(=NC(=N1)Cl)Cl)C1=CC=CC=C1 | C15H10Cl2N4
reactant | potassium carbonate | 0.60 mole | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 300 ml | CN1CCCC1=O | C5H9NO
product | 2-diphenylamino-4,6-bis-{4'-(3",4"-dicarboxybenzoyl)-anilino}-s-triazine | C1(=CC=CC=C1)N(C1=NC(=NC(=N1)NC1=CC=C(C=C1)C(C1=CC(=C(C=C1)C(=O)O)C(=O)O)=O)NC1=CC=C(C=C1)C(C1=CC(=C(C=C1)C(=O)O)C(=O)O)=O)C1=CC=CC=C1 | C45H30N6O10
